US06429221B1
c) 1-Phthalimido-1-(3′,4′-dimethoxyphenyl)ethane
To a stirred solution of 1-(3′,4′dimethoxyphenyl)ethylamine (1.81 grams, 10.0 mmol) and sodium carbonate (1.14 grams, 10.8 mmol) in a mixture of water (80 milliliters) and acetonitrile (50 milliliters) was added N-carbethoxyphthalimide (2.19 grams, 10 mmol). The resulting suspension was stirred for 3.5 hours at room temperature and then filtered to afford 1.24 grams (40%) of crude product as a white powder. The crude product was recrystallized from hexane/ethyl acetate and dried in vacuo (60° C., <1 mm) to afford 0.85 grams (27%) of the product as white crystals: mp 124-125° C.; 1H NMR (DMSO-d6) δ7.96-7.78 (m, 4H), 7.09-6.81 (m, 3H), 5.40 (q, J=7.2 Hz, 1H), 3.73 (s, 3H), 3.72(s, 3H), 1.81 (d, J=7.2 Hz, 3H); 13C NMR (DMSO-d6) δ167.6, 148.4, 148.0, 134.4, 132.9, 131.3, 122.9, 118.8, 111.5, 110.8, 55.4, 48.6, 17.7. Anal. Calculated for C18H17NO4. Theoretical: C, 69.44; H, 5.50; N, 4.50. Found: C, 69.63; H, 5.45; N, 4.42. HPLC 100%.

reactant | 1-(3′,4′dimethoxyphenyl)ethylamine | 10.0 mmol, 1.81 grams | COC=1C=C(C=CC1OC)C(C)N | C10H15NO2
reactant | sodium carbonate | 10.8 mmol, 1.14 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 10 mmol, 2.19 grams | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 80 milliliters | O | H2O
solvent | acetonitrile | 50 milliliters | C(C)#N | C2H3N
product | 1-Phthalimido-1-(3′,4′-dimethoxyphenyl)ethane | 0.85 grams, 27% | C1(C=2C(C(N1C(C)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C18H17NO4
